US08314091B2
A: N-tert-Butyl-2,6-difluoro-3-methylbenzamide
To a stirred solution of 2,6-difluoro-3-methylbenzoic acid (8.75 mmol, 1.5 g), 2-methylpropan-2-amine (9.43 mmol, 1 mL, 0.690 g) and triethylamine (28.7 mmol, 4 mL, 2.90 g) in dichloromethane (20 mL) was added 1-propanephosphonic acid cyclic anhydride (13.50 mmol, 8 mL, 8.59 g, 50% solution In ethyl acetate). The reaction was stirred for 2 hours before being diluted with dichloromethane and aqueous sodium hydrogen carbonate. The organic layer was separated, dried and concentrated under vacuum to yield the title compound (1.1 g). MS (ESI) m/z 228.4 [M+H]+

reactant | 2,6-difluoro-3-methylbenzoic acid | 8.75 mmol, 1.5 g | FC1=C(C(=O)O)C(=CC=C1C)F | C8H6F2O2
reactant | 2-methylpropan-2-amine | 9.43 mmol, 1 mL, 0.690 g | CC(C)(C)N | C4H11N
reactant | triethylamine | 28.7 mmol, 4 mL, 2.90 g | C(C)N(CC)CC | C6H15N
reactant | 1-propanephosphonic acid cyclic anhydride | 13.50 mmol, 8 mL, 8.59 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-tert-Butyl-2,6-difluoro-3-methylbenzamide | 1.1 g | C(C)(C)(C)NC(C1=C(C(=CC=C1F)C)F)=O | C12H15F2NO
